US07291631B2
Using General Procedure B, reaction of (R)-1-pyridin-2-yl-ethylamine (Shin, C-G et al, Bull. Chem. Soc. Jpn. 2002, 75, 1583-1596) in CH2Cl2 and 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde with NaBH(OAc)3 gave 2-[4-(1-pyridin-2-yl-ethylamino)-butyl]-isoindole-1,3-dione as a yellow oil. 1H NMR (CDCl3) δ 1.37 (d, 3H, J=6.0 Hz), 1.51-1.54 (m, 1H), 1.66-1.71 (m, 2H), 2.02-2.03 (m, 2H), 2.41-2.45 (m, 1H), 2.52-2.57 (m, 1H), 3.66 (t, 2H, J=7.5 Hz), 3.81-3.88 (m, 1H), 7.12-7.14 (m, 1H), 7.28-7.30 (m, 1H), 7.63-7.64 (m, 1H), 7.68-7.71 (m, 2H), 7.81-7.84 (m, 2H), 8.53-8.54 (m, 1H).

reactant | (R)-1-pyridin-2-yl-ethylamine | N1=C(C=CC=C1)[C@@H](C)N | C7H10N2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-pyridin-2-yl-ethylamino)-butyl]-isoindole-1,3-dione | N1=C(C=CC=C1)C(C)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C19H21N3O2
